US07462614B2
To a solution of 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride (28 mg, 0.107 mmol) in 1,4-dioxane (0.8 mL) was added 2-(3-bromophenyl)ethanesulfonic acid (28.25 mg, 0.107 mmol), 2-(dit-butylphosphino)biphenyl (9.6 mg, 0.032 mmol), Tris(dibenzylidineacetone)-dipalladium (0) (9.8 mg, 0.011 mmol) and sodium t-butoxide (23.65 mg, 0.246 mmol). In a sealed reaction vessel, the mixture was heated with microwave radiation at 160° C. for 13 minutes. After cooling to room temperature, methanol (5 mL) and silica gel (1.0 g) were added to the reaction mixture, followed by evaporation of the volatiles under reduced pressure. The pre-adsorbed solids were loaded into a solid loading cartridge and subjected to isocratic elution using ethyl acetate:hexanes (50:50) followed by ethyl acetate:methanol (80:20) using a Biotage silica gel cartridge (8.0 g). The appropriate fractions were combined and concentrated under reduced pressure to give 2-{3-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]phenyl}-ethanesulfonic acid (0.029 g) as a yellow solid. 1H NMR (DMSO-d6): δ9.73 (s, 1H), 9.23 (s, 1H), 8.42 (d, J=7.5 Hz, 2H), 7.74 (s, 1H), 7.63 (dd, J=7.70 Hz, 2H), 7.49-7.07 (m, 3H), 6.86 (d, J=7.3 Hz, 1H), 2.94-2.82 (m, 2H), 2.71-2.62 (m, 2H), 2.52 (s, 3H). MS m/z 410 (M+1).

reactant | 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride | 0.107 mmol, 28 mg | Cl.CC=1N=C(N2N=C(N=CC21)N)C2=CC=CC=C2
reactant | 2-(3-bromophenyl)ethanesulfonic acid | 0.107 mmol, 28.25 mg | BrC=1C=C(C=CC1)CCS(=O)(=O)O | C8H9BrO3S
reactant | 2-(dit-butylphosphino)biphenyl | 0.032 mmol, 9.6 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 0.246 mmol, 23.65 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 2-{3-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]phenyl}-ethanesulfonic acid | 0.029 g | CC=1N=C(N2N=C(N=CC21)NC=2C=C(C=CC2)CCS(=O)(=O)O)C2=CC=CC=C2 | C20H19N5O3S
